US05879657
Boc-D-Lys(Tfa)-NMeArg(Tos)-Gly
A solution of Boc-D-Lys(Tfa)-NMeArg(Tos)-Gly-OBzl (11.00 g, 13.5 mmol) in methanol (200 ml) was placed in a Parr shaker bottle, purged with N2 for 10 minutes, and treated with 10% palladium on carbon catalyst (10% Pd/C, 3.6 g). The shaker bottle was further purged with 7 pressurization-evacuation cycles, repressurized, and allowed to shake 90 minutes, during which time the calculated amount of hydrogen was consumed. The catalyst was removed by filtration through a bed of Celite and the filtrate was concentrated under reduced pressure yielding a solid. Trituration with refluxing ethyl ether (75 ml) gave pure product (9.18 g, 94%) as a colorless solid. DCI-MS: [M+H]=724.

reactant | Boc-D-Lys(Tfa)-NMeArg(Tos)-Gly-OBzl | 13.5 mmol, 11.00 g | N([C@H](CCCCNC(=O)C(F)(F)F)C(=O)N([C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)NCC(=O)OCC1=CC=CC=C1)C)C(=O)OC(C)(C)C | C36H50F3N7O9S
reactant | ethyl ether | 75 ml | C(C)OCC | C4H10O
solvent | methanol | 200 ml | CO | CH4O
product | Boc-D-Lys(Tfa)-NMeArg(Tos)-Gly | 9.18 g, 94% | N([C@H](CCCCNC(=O)C(F)(F)F)C(=O)N([C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)NCC(=O)O)C)C(=O)OC(C)(C)C | C29H44F3N7O9S
